US07893085B2
4-Chloro-nicotinic acid
Following the procedures of Guillier et al (1995) J. Org. Chem. 60(2):292-6, to a cold (−78° C.) solution of LDA (21 ml, 1.6 M in hexanes, 33.3 mmol) in anhydrous THF (70 ml) was added 4-chloropyridine (5.0 g, 33.3 mmol) under an argon atmosphere. After 1 hour at −78° C., the solution was rapidly poured onto a bed of solid CO2 contained within a 250 ml conical flask. After allowing the reaction solution to warm to ambient temperature the solution was quenched with water (30 ml). The volatile organic solvents were removed in vacuo and the remaining aqueous suspension was extracted with diethyl ether (3×100 ml). The aqueous phase was cooled to 0° C. and the adjusted to pH 4 by the addition of concentrated hydrochloric acid. The resultant precipitate was aged for 30 minutes then collected by filtration. The solid was washed with cold diethyl ether (10 ml) to afford the title compound as a white solid (3.2 g, 61%).

reactant | LDA | 33.3 mmol, 1.6 M, 21 ml | [Li+].CC(C)[N-]C(C)C
reactant | 4-chloropyridine | 33.3 mmol, 5.0 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 4-Chloro-nicotinic acid | 3.2 g, 61% | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
